US05371096
A mixture of 61.1 g of 5-benzyloxypentanoic acid, 566 ml of ethanol and 10 ml of concentrated sulfuric acid is refluxed for 15 h. The mixture is cooled to room temperature, 10 ml of triethylamine are added and evaporated. The residue is diluted with 250 ml of ether and the solution is washed in water and brine dried (MgSO4) and evaporated. The residual oil is distilled to give ethyl 5-benzyloxypentanoate, b.p. 110°-113° C. (0.7 mm/Hg).

reactant | 5-benzyloxypentanoic acid | 61.1 g | C(C1=CC=CC=C1)OCCCCC(=O)O | C12H16O3
reactant | ethanol | 566 ml | C(C)O | C2H6O
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | ethyl 5-benzyloxypentanoate | C(C1=CC=CC=C1)OCCCCC(=O)OCC | C14H20O3
